US05554620
To a mixture of 1-(3-furyl)-1-hydroxy-2-propane (20.0 g, 0.163 mol), hexane (200 mL) and THF (25 mL) was added tetrabutylammonium bromide (1.05 g, 0.0032 mol), 50% NaOH (150 mL) and then diethylsulfate (30.0g, 0.195 mol) at 0° C. The mixture was stirred for 3 h at room temperature, poured into ice, and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was distilled at 70°-84° C. and (10 mm Hg) to afford 1-(3-furyl)-1-ethoxy-2-propyne.

reactant | hexane | 200 mL | CCCCCC | C6H14
reactant | NaOH | 150 mL | [OH-].[Na+]
reactant | diethylsulfate | 0.195 mol, 30.0g | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 0.0032 mol, 1.05 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(3-furyl)-1-ethoxy-2-propyne | O1C=C(C=C1)C(C#C)OCC | C9H10O2
